US08258141B2
Acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester
The title compound is prepared by combining acetic acid [(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl-carbamoyl]-methyl ester (1 equivalent) and (S)-2-amino-3-phenyl-propan-1-ol 1 equivalent) in dichloromethane with triethylamine (1.1 equivalents) and stirring overnight. The reaction is diluted with dichloromethane, and washed consecutively with 0.1M hydrochloric acid, water and brine, before drying over magnesium sulfate. Filtration and removal of the volatile components under reduced pressure, affords the title compound.

reactant | acetic acid [(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl-carbamoyl]-methyl ester | 1 equivalent | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)Cl | C14H15Cl2N5O5
reactant | (S)-2-amino-3-phenyl-propan-1-ol | 1 equivalent | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | triethylamine | 1.1 equivalents | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-((S)-1-hydroxymethyl-2-phenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)N[C@@H](CC1=CC=CC=C1)CO | C23H27ClN6O6
